### PR TITLE
[Merged by Bors] - feat(RingTheory/DividedPowers/RatAlgebra): add definitions

### PR DESCRIPTION
**Pull request by mariainesdff**
In this file we show that, for certain choices of a commutative (semi)ring `A` and an ideal `I` of
`A`, the family of maps `ℕ → A → A` given by `fun n x ↦ x^n/n!` is a divided power structure on `I`.

Co-authored-by: AntoineChambert-Loir <antoine.chambert-loir@u-paris.fr>

---

- [x] depends on: #22237
- [x] depends on: #22239 
- [x] depends on: #22240
- [x] depends on: #24439

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/DividedPowers/RatAlgebra.lean [hunk 1]
```diff
@@ -0,0 +1,310 @@
+/-
+Copyright (c) 2022 Antoine Chambert-Loir, María Inés de Frutos-Fernández. All rights reserved.
```
Comment (dagurtomas) [inline Mathlib/RingTheory/DividedPowers/RatAlgebra.lean]: Is 2022 correct?

File: Mathlib/RingTheory/DividedPowers/RatAlgebra.lean [hunk 2]
```diff
@@ -0,0 +1,310 @@
...
+  simp only [dpow, if_pos hx]
+
+theorem dpow_eq_of_not_mem {m : ℕ} {x : A} (hx : x ∉ I) : dpow I m x = 0 := by
+  simp only [dpow, if_neg hx]
+
+theorem dpow_null {m : ℕ} {x : A} (hx : x ∉ I) : dpow I m x = 0 := by
+  simp only [dpow, if_neg hx]
+
+theorem dpow_zero {x : A} (hx : x ∈ I) : dpow I 0 x = 1 := by
+  simp only [dpow, factorial_zero, cast_one, inverse_one, _root_.pow_zero, mul_one, if_pos hx]
```
Comment (dagurtomas) [inline Mathlib/RingTheory/DividedPowers/RatAlgebra.lean]:
```suggestion
theorem dpow_eq_of_mem {m : ℕ} {x : A} (hx : x ∈ I) : dpow I m x = inverse (m ! : A) * x ^ m := by
  simp [dpow, hx]

theorem dpow_eq_of_not_mem {m : ℕ} {x : A} (hx : x ∉ I) : dpow I m x = 0 := by
  simp [dpow, hx]

theorem dpow_null {m : ℕ} {x : A} (hx : x ∉ I) : dpow I m x = 0 := by
  simp [dpow, hx]

theorem dpow_zero {x : A} (hx : x ∈ I) : dpow I 0 x = 1 := by
  simp [dpow, hx]
```

File: Mathlib/RingTheory/DividedPowers/RatAlgebra.lean [hunk 3]
```diff
@@ -0,0 +1,310 @@
...
+
+theorem dpow_one {x : A} (hx : x ∈ I) : dpow I 1 x = x := by
+  rw [dpow_eq_of_mem hx, pow_one, Nat.factorial_one, Nat.cast_one, inverse_one, one_mul]
```
Comment (dagurtomas) [inline Mathlib/RingTheory/DividedPowers/RatAlgebra.lean]:
```suggestion
  simp [dpow_eq_of_mem hx]
```

**Review by dagurtomas — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
